US07635715B2
A solution of 1-bromo-4-chloro-2-nitrobenzene (13.92 g, 58.87 mmol) in MeOH (300 mL) was treated with water (50 mL), ammonium chloride (22.99 g, 429.8 mmol), and iron powder (325 mesh, 16.44 g, 294.4 mmol). The suspension was stirred at 23° C. After 18 hours, the suspension was filtered through celite. The filter cake was washed with MeOH (500 mL). The combined filtrate/washings were concentrated, partitioned in EtOAc/water (500 mL/200 mL), and the organic layer was separated. The aqueous layer was washed with EtOAc (2×200 mL). The organic layers were combined, washed with brine (200 mL), dried (MgSO4), and concentrated in vacuo affording 11.51 g of 2-bromo-5-chlorobenzenamine.

reactant | 1-bromo-4-chloro-2-nitrobenzene | 58.87 mmol, 13.92 g | BrC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3BrClNO2
reactant | water | 50 mL | O | H2O
reactant | ammonium chloride | 429.8 mmol, 22.99 g | [Cl-].[NH4+]
solvent | MeOH | 300 mL | CO | CH4O
catalyst | iron | 294.4 mmol, 16.44 g | [Fe] | Fe
product | 2-bromo-5-chlorobenzenamine | 11.51 g | BrC1=C(C=C(C=C1)Cl)N | C6H5BrClN
